US08877780B2
A mixture of 4-benzylamino-phthalic acid dimethyl ester (1.11 g, 3.71 mmol) and 3N sodium hydroxide (50 mL) in ethanol (100 mL) was refluxed for one hour. The reaction mixture was cooled to room temperature, and the solvent was removed under vacuum. The residue was dissolved in water (100 mL), washed with CH2Cl2 (2×100 mL) and acidified (HCl), and resulting mixture was extracted with ethyl acetate (2×100 mL). The combined organic extracts were washed with water (2×100 mL), and dried (MgSO4) and evaporated under vacuum. The resulting solid was stirred in ether for 2 hours. The solid was filtered and dried, providing 0.50 g of 4-benzylamino-phthalic acid, in 74% yield; 1H NMR (DMSO-d6) δ 4.35 (d, J=5.7 Hz, 2H), 6.59-6.62 (m, 2H), 7.10-7.34 (m, 6H), 7.54-7.57 (m, 1H), 12.48 (br, 2H).

reactant | 4-benzylamino-phthalic acid dimethyl ester | 3.71 mmol, 1.11 g | COC(C=1C(C(=O)OC)=CC(=CC1)NCC1=CC=CC=C1)=O | C17H17NO4
reactant | sodium hydroxide | 3N, 50 mL | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-benzylamino-phthalic acid | 0.50 g, 74% yield | C(C1=CC=CC=C1)NC=1C=C(C(C(=O)O)=CC1)C(=O)O | C15H13NO4
